US08008298B2
A solution of (2-methyl-pyrrolidin-2-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone (8 mg, 0.02 mmol) in anhydrous dichloromethane (0.3 ml) was cooled to 0° C. and treated with acetic anhydride (2 mg, 0.02 mmol). The reaction mixture was stirred for 1 hour and then allowed to warm to room temperature and stir for 3 hours. The reaction mixture was partitioned between EtOAc/saturated aqueous NaHCO3. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a brownish oil. The residue was purified by preparative thin layer chromatography using 50% EtOAc in hexanes as eluant to provide 2 mg (17%) of 1-{2-methyl-2-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-pyrrolidin-1-yl}-ethanone as a light yellow solid. M+H=439.

reactant | (2-methyl-pyrrolidin-2-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 0.02 mmol, 8 mg | CC1(NCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C21H24N4O4
reactant | acetic anhydride | 0.02 mmol, 2 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 0.3 ml | ClCCl | CH2Cl2
product | 1-{2-methyl-2-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-pyrrolidin-1-yl}-ethanone | 2 mg, 17% | CC1(N(CCC1)C(C)=O)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C23H26N4O5
